US08053581B2
Step 2: Preparation of 1-(4-methoxy-phenyl)-3-phenyl-propan-1-one
To a 500 ml three-necked flask provided with a mechanical agitator and a thermometer were added a solution of 22.4 g (133.2 mmol) in theoretical amount of 3-phenylpropionyl chloride which was prepared in the step 1, dissolved in 100 ml dichloromethane, 14.4 g (205.9 mmol) methylphenyl ether and 150 ml dichloromethane, the mixture was cooled in an ice salt bath to lower than −5° C., while maintaining the inside temperature at −5° C. to −10° C., 17.8 g (133.2 mmol) anhydrous AlCl3 was added portionwise, upon the completion of addition. The mixture was stirred at this temperature for 1 hour and then at room temperature for 1 hour, the resultant was poured under stirring into a mixture of 100 g ice, 100 g water and 40 ml concentrated hydrochloric acid, the organic layer was separated, and the aqueous layer was extracted with dichloromethane twice ×20 ml, the organic layers were combined and washed with saturated brine, then with saturated aqueous sodium bicarbonate solution, and then with saturated brine until neutrality, dried over anhydrous magnesium sulfate, filtrated and concentrated under a reduced pressure to obtain a crude product, which was recrystallized with petroleum ether and ethyl acetate (2:1) to obtain a 23.5 g product, the mother liquid was concentrated and recrystallized to obtain a 3.3 g product in a yield of 83.7% in total, mp: 96-97□. 1H-NMR (CDCl3, 400 MHz) δ: 3.05 (2H, t, J=8.16 Hz), 3.25 (2H, t, J=8.16 Hz), 3.86 (3H, s, OCH3), 6.92 (2H, d, J=9.00 Hz, ArH), 7.18˜7.32 (5H, m, ArH), 7.94 (2H, d, J=9.00 Hz, ArH); EI-MS m/e (%): 240.1 (M+, 37), 135 (100).

reactant | 3-phenylpropionyl chloride | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | methylphenyl ether | 205.9 mmol, 14.4 g | COC1=CC=CC=C1 | C7H8O
reactant | AlCl3 | 133.2 mmol, 17.8 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | hydrochloric acid | 40 ml | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | water | 100 g | O | H2O
product | 1-(4-methoxy-phenyl)-3-phenyl-propan-1-one | 23.5 g | COC1=CC=C(C=C1)C(CCC1=CC=CC=C1)=O | C16H16O2
